US04837217
In 40 ml of acetonitrile were dissolved 2.2 g of 2-t-butyl-4-chloro-5-mercapto-3(2H)-pyridazinone and 2.7 g of 5-chloromethyl-2-(2,2,3,3-tetrafluoropropyloxy)-pyridine, and thereto was added 1.5 g of potassium carbonate. The reaction mixture was stirred overnight at room temperature, poured into water and extracted with benzene. The organic layer was washed with a 5% aqueous solution of sodium hydroxide and then with water, and dried over anhydrous sodium sulfate. Solvent was distilled off under reduced pressure and the resulting crystals were washed with n-hexane to obtain 4.0 g of 2-t-butyl-4-chloro-5-[{6-(2,2,3,3-tetrafluoropropyloxy)-3-pyridyl}-methylthio]-3(2H)-pyridazinone, m.p. 113.0°~114.0° C.

reactant | 2-t-butyl-4-chloro-5-mercapto-3(2H)-pyridazinone | 2.2 g | C(C)(C)(C)N1N=CC(=C(C1=O)Cl)S | C8H11ClN2OS
reactant | 5-chloromethyl-2-(2,2,3,3-tetrafluoropropyloxy)-pyridine | 2.7 g | ClCC=1C=CC(=NC1)OCC(C(F)F)(F)F | C9H8ClF4NO
reactant | potassium carbonate | 1.5 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
solvent | acetonitrile | 40 ml | C(C)#N | C2H3N
product | 2-t-butyl-4-chloro-5-[{6-(2,2,3,3-tetrafluoropropyloxy)-3-pyridyl}-methylthio]-3(2H)-pyridazinone | 4.0 g | C(C)(C)(C)N1N=CC(=C(C1=O)Cl)SCC=1C=NC(=CC1)OCC(C(F)F)(F)F | C17H18ClF4N3O2S
